US04017492
In the manner given in Example 1, 7-chloro-2-hydrazino-5-(2,6-difluorophenyl)-3H-1,4-benzodiazepine can be stirred with tert.-butyl pyruvate to give 7-chloro-2-[[1-(t-butyoxycarbonyl)ethylidene]hydrazino]-5-(2,6-difluorophenyl)-3H-1,4-benzodiazepine.

reactant | 7-chloro-2-hydrazino-5-(2,6-difluorophenyl)-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=C(C=CC=C2F)F)C1 | C15H11ClF2N4
reactant | tert.-butyl pyruvate | C(C(=O)C)(=O)OC(C)(C)C | C7H12O3
product | 7-chloro-2-[[1-(t-butyoxycarbonyl)ethylidene]hydrazino]-5-(2,6-difluorophenyl)-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(C)C(=O)OC(C)(C)C)C2=C(C=CC=C2F)F)C1 | C22H21ClF2N4O2
